US07598391B2
1-(1-Butyryl-piperidin-4-yl)-3-[5-(2-diethylamino-ethylsulfanyl)-thiazol-2-yl]-1-(trans-4-methyl-cyclohexyl)-urea
Prepared as described in general procedures (H) and (I) using 1-(1-butyryl-piperidin-4-yl)-1-(trans-4-methyl-cyclohexyl)-3-(5-thiocyanato-thiazol-2-yl)-urea, dithioerythritol and 2-diethylamino-ethanethiol

reactant | 1-(1-butyryl-piperidin-4-yl)-1-(trans-4-methyl-cyclohexyl)-3-(5-thiocyanato-thiazol-2-yl)-urea | C(CCC)(=O)N1CCC(CC1)N(C(=O)NC=1SC(=CN1)SC#N)[C@@H]1CC[C@H](CC1)C | C21H31N5O2S2
reactant | dithioerythritol | SC[C@H](O)[C@H](O)CS | C4H10O2S2
reactant | 2-diethylamino-ethanethiol | C(C)N(CCS)CC | C6H15NS
product | 1-(1-Butyryl-piperidin-4-yl)-3-[5-(2-diethylamino-ethylsulfanyl)-thiazol-2-yl]-1-(trans-4-methyl-cyclohexyl)-urea | C(CCC)(=O)N1CCC(CC1)N(C(=O)NC=1SC(=CN1)SCCN(CC)CC)[C@@H]1CC[C@H](CC1)C | C26H45N5O2S2
